US06559173B1
6-Fluoro-3-[(5-methyl-1H-pyrazol-3-ylamino)-methylene]-1,3-dihydro-indol-2-one
The named compound is prepared by substituting E & Z-3-[(hydroxy)-methylene]-6-fluoro-1,3-dihydro-indol-2-one for E & Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one and 5-methyl-1H-pyrazol-3-ylamine for 3-aminopyrazole in the reaction of Example 1. Specifically, E & Z-3-[(hydroxy)-methylene]-6-fluoro-1,3-dihydro-indol-2-one (0.033 gms.) is reacted with 0.040 gms. 5-methyl-1H-pyrazol-3-ylamine by refluxing in tetrahydrofuran (0.88 mL) to afford the named compound in the amount of 0.0163 gms.

reactant | Z-3-[(hydroxy)-methylene]-6-fluoro-1,3-dihydro-indol-2-one | O\C=C\1/C(NC2=CC(=CC=C12)F)=O | C9H6FNO2
reactant | Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one | O\C=C\1/C(NC2=CC=CC=C12)=O | C9H7NO2
reactant | 5-methyl-1H-pyrazol-3-ylamine | CC1=CC(=NN1)N | C4H7N3
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | Z-3-[(hydroxy)-methylene]-6-fluoro-1,3-dihydro-indol-2-one | 0.033 gms | O\C=C\1/C(NC2=CC(=CC=C12)F)=O | C9H6FNO2
solvent | tetrahydrofuran | 0.88 mL | O1CCCC1 | C4H8O
product | 6-Fluoro-3-[(5-methyl-1H-pyrazol-3-ylamino)-methylene]-1,3-dihydro-indol-2-one | FC1=CC=C2C(C(NC2=C1)=O)=CNC1=NNC(=C1)C | C13H11FN4O
